US07655666B2
A solution of 2-amino-5-ethynyl-4-trifluoromethyl-benzoic acid methyl ester (150 mg, 0.62 mmol) and tetrazine (55.7 mg, 0.68 mmol) in 1,2-dichloroethane (3 mL) in a sealed tube was heated in the microwave at 130° C. for 40 min and at 120° C. for 40 min. After cooling to r.t., the solvent was removed in vacuo. The residue was purified by flash chromatography (10 g silica gel, hexanes→EtOAc:hexanes (2:3)) to provide 2-amino-5-pyridazin-4-yl-4-trifluoromethyl-benzoic acid methyl ester (74 mg, 40%) as a solid. API-ES: m/z 298 [M+H]+, rt 3.54 min.

reactant | 2-amino-5-ethynyl-4-trifluoromethyl-benzoic acid methyl ester | 0.62 mmol, 150 mg | COC(C1=C(C=C(C(=C1)C#C)C(F)(F)F)N)=O | C11H8F3NO2
reactant | tetrazine | 0.68 mmol, 55.7 mg | N1=NN=NC=C1 | C2H2N4
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 2-amino-5-pyridazin-4-yl-4-trifluoromethyl-benzoic acid methyl ester | 74 mg, 40% | COC(C1=C(C=C(C(=C1)C1=CN=NC=C1)C(F)(F)F)N)=O | C13H10F3N3O2
